US05200550
Into a round bottom flask, there are introduced 1.68 g (10 mmoles) of methyl 2,4-dihydroxybenzoate, 1.55 ml (11 moles) of triethylamine and 50 ml of THF. There is then slowly added a solution of 3 g (10 mmoles) of 3-(1-adamantyl)-4-methoxybenzoyl chloride in 50 ml of THF and the mixture is stirred at ambient temperature for 12 hours. The reaction medium is poured into water and extracted with ethyl ether. The organic phase is decanted, washed with water, dried on magnesium sulfate and evaporated. The resulting residue is purified by chromatography on a silica column eluted by a 50:50 mixture of dichloromethane and hexane. After evaporation of the solvents, 2.55 g (59% yield) of methyl 4-[3-(1-adamantyl)-4-methoxybenzoyloxy]-2-hydroxybenzoate having a melting point of 125°-127° C. are recovered.

reactant | methyl 2,4-dihydroxybenzoate | 10 mmoles, 1.68 g | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | triethylamine | 11 moles, 1.55 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(1-adamantyl)-4-methoxybenzoyl chloride | 10 mmoles, 3 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)Cl)C=CC2OC | C18H21ClO2
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | methyl 4-[3-(1-adamantyl)-4-methoxybenzoyloxy]-2-hydroxybenzoate | 2.55 g, 59% yield | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC3=CC(=C(C(=O)OC)C=C3)O)C=CC2OC | C26H28O6
